US09422281B2
A 1-L round bottomed flask containing (S)-2-(2-nitrophenylamino)propane-1-ol (6.9 g, 35.2 mmol) and equipped with a magnetic stir bar was charged with methanol (138 mL), acetic acid (6.04 mL, 106 mmol), and 10% palladium on carbon (0.700 g, 0.658 mmol). The flask was fitted with a three-way stopper with a balloon of hydrogen attached. A vacuum line was connected, and the flask was gently evacuated, then back filled with hydrogen, twice. The reaction mixture was then stirred under a hydrogen atmosphere at rt. After 4 h, the reaction mixture was filtered through a pad of Celite, and the filter cake and catalyst were rinsed with fresh methanol. The filtrate was concentrated under reduce pressure to a dark syrup. The material was redissolved in toluene (ca. 200 mL), which was then removed under reduced pressure. The residue was then dissolved in ethyl acetate and washed with saturated aqueous sodium bicarbonate (75 mL) followed by 5 wt % aqueous sodium chloride (50 mL). The ethyl acetate extract was then concentrated under reduced pressure to afford (S)-2-(2-aminophenylamino)propane-1-ol (5.12 g, 88%) as a dark purple solid. MS (ESI, pos. ion) m/z 167 [M+1]+.

reactant | (S)-2-(2-nitrophenylamino)propane-1-ol | 35.2 mmol, 6.9 g | [N+](=O)([O-])C1=C(C=CC=C1)N[C@H](CO)C | C9H12N2O3
reactant | acetic acid | 106 mmol, 6.04 mL | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.658 mmol, 0.700 g | [Pd] | Pd
solvent | methanol | 138 mL | CO | CH4O
product | (S)-2-(2-aminophenylamino)propane-1-ol | 5.12 g, 88% | NC1=C(C=CC=C1)N[C@H](CO)C | C9H14N2O
